US05554761
A mixture of 1.31 g (10 mmol) of 4-hydroxy-5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one, 2.89 g (12 mmol) of 2-methoxycarbonyl-phenylsulphonyl isocyanate and 40 ml of acetonitrile is stirred for 5 hours at 20° C. and subsequently concentrated under a water pump vacuum. The residue is stirred with diethyl ether, and the product which has been obtained in crystalline form is isolated by filtration with suction and recrystallised from isopropanol. 1.22 g (33% of theory) of 4-hydroxy-5-methoxy-1-(2-methoxycarbonyl-phenylsulphonylaminocarbonyl)-2,4-dihydro-3H-1,2,4-triazol-3-one of melting point 180° C. are obtained.

reactant | 4-hydroxy-5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one | 10 mmol, 1.31 g | ON1C(NN=C1OC)=O | C3H5N3O3
reactant | 2-methoxycarbonyl-phenylsulphonyl isocyanate | 12 mmol, 2.89 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 4-hydroxy-5-methoxy-1-(2-methoxycarbonyl-phenylsulphonylaminocarbonyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 1.22 g, 33% | ON1C(NN(C1OC)C(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC)=O | C12H14N4O8S
